US07199239B2
Intermediate 24: Ethyl [4-({(2-methoxyethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate
To a solution of N-(2-methoxyethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (0.1 g, 0.34 mmol) in anhydrous acetonitrile (10 mL) was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (0.097 g, 0.34 mmol) and N,N-diisopropylethylamine (0.059 mL, 0.34 mmol). The resulting mixture was heated to reflux and stirred under nitrogen for 3 h. The reaction mixture was concentrated in vacuo and the residue partitioned between water (20 mL) and CH2Cl2 (40 mL), the organic extract was separated by hydrophobic frit and the solvents removed in vacuo. Purification by Biotage™ chromatography (Silica, 12 g) eluting 9:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (90 mg).

reactant | N-(2-methoxyethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.34 mmol, 0.1 g | COCCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NO
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.34 mmol, 0.097 g | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropylethylamine | 0.34 mmol, 0.059 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl [4-({(2-methoxyethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 90 mg | COCCN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C28H30F3NO4
